US06320050B1
A solution of 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid (1.01 g, 3.39 mmol) in methylene chloride (8.5 mL) was treated with 2 drops of dry N,N-dimethylformamide. The reaction mixture was cooled to 0° C. and then treated with oxalyl chloride (3 mL, 33.98 mmol). The reaction mixture was stirred at 0° C. for 10 min and then stirred at 25° C. for 15 h. The reaction mixture was concentrated in vacuo. The resulting yellow oil was dissolved in a small amount of methylene chloride and slowly added to a cooled solution (0° C.) of 2-aminothiazole (680.6 mg, 6.79 mmol) and N,N-diisopropylethylamine (1.2 mL, 6.79 mmol) in methylene chloride (17 mL). The resulting reaction mixture was stirred at 0° C. for 10 min and then at 25° C. for 15 h. The reaction mixture was concentrated in vacuo to remove methylene chloride. The resulting residue was diluted with ethyl acetate (200 mL). The organic phase was washed with a 10% aqueous hydrochloric acid solution (2×100 mL), washed with a saturated aqueous sodium bicarbonate solution (2×100 mL), and washed with a saturated aqueous sodium chloride solution (1×100 mL). The organic layer was then dried over sodium sulfate, filtered, and concentrated in vacuo to afford 2-(4-bromo-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (1.23 g, 95%) as an orange solid which was used in subsequent reactions without further purification. An analytical sample was recrystallized from ethyl acetate to provide a cream solid: mp 201-202° C.; EI-HRMS m/e calcd for C17H19BrN2OS (M+) 378.0401, found 378.0405.

reactant | 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid | 3.39 mmol, 1.01 g | BrC1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C14H17BrO2
reactant | oxalyl chloride | 33.98 mmol, 3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 6.79 mmol, 680.6 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 6.79 mmol, 1.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 8.5 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 17 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 1.23 g, 95% | BrC1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C17H19BrN2OS
